US07468364B2
Allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(3-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.37 g, 3.99 mmol) prepared by Reference Example 3, triphenylphosphine (52 mg), and tetrakis(triphenylphosphine)palladium(0) (0.23 g, 0.2 mmol) were dissolved in THF (20 ml), and thereto was added at 0° C. sodium 2-ethylhexanoate in ethyl acetate (0.5 M, 8.0 ml, 4.0 mmol), followed by stirring for 1 hour. Thereto was added hexane (30 ml) and the resulting white crystals were filtered under a nitrogen atmosphere, washed with hexane, dried at room temperature in vacuo to give a crude product. The product was dissolved in a small amount of ice-water, and purified with C18 reverse column chromatography (filler: Akosil 40C18 (Wako Pure Chemical Ind.); mobile phase; 0˜5%THF/ice-cooled ion-exchange water). The fractions containing the object compound were combined and THF therein was removed at room temperature in vacuo under stirring for 1 hour. The residue was lyophilized to give sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(3-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (297 mg, yield 23%).

reactant | Allyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(3-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 3.99 mmol, 1.37 g | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC=C)C1=CC(=CC=C1)OC | C19H21NO5
reactant | triphenylphosphine | 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | ethyl acetate | 4.0 mmol, 0.5 M, 8.0 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.2 mmol, 0.23 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexane | 30 ml | CCCCCC | C6H14
product | sodium (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-(3-methoxyphenyl)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 297 mg, yield 23% | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])C1=CC(=CC=C1)OC.[Na+] | InChI=1S/C16H17NO5.Na/c1-8(18)13-12-7-11(9-4-3-5-10(6-9)22-2)14(16(20)21)17(12)15(13)19;/h3-6,8,12-13,18H,7H2,1-2H3,(H,20,21);/q;+1/p-1/t8-,12-,13-;/m1./s1
